US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 2.6 g (0.0080 mole) of 4-(3,5-dichloro-4-diethylaminophenyl)-2-methyl-3-thiosemicarbazide with 2.0 g (0.0096 mole) of trifluoroacetic anhydride in 75 ml of toluene yielded 1.0 g of 4-(3,5-dichloro-4-diethylaminophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a solid, mp 128°-130° C., Compound 151 of Table 1. The nmr and mass spectra were consistent with the proposed structure.

reactant | 4-(3,5-dichloro-4-diethylaminophenyl)-2-methyl-3-thiosemicarbazide | 0.0080 mole, 2.6 g | ClC=1C=C(C=C(C1N(CC)CC)Cl)NC(N(N)C)=S | C12H18Cl2N4S
reactant | trifluoroacetic anhydride | 0.0096 mole, 2.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3,5-dichloro-4-diethylaminophenyl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 1.0 g | ClC=1C=C(C=C(C1N(CC)CC)Cl)N1C(=NN(C1=S)C)C(F)(F)F | C14H15Cl2F3N4S
